US07834028B2
2-(2-Benzyl-5-methyl-2H-pyrazol-3-yl)-ethanol (848 mg, 3.92 mmol) was dissolved in DMF (21 ml) and cooled to −20° C. followed by the addition of sodium hydride (218 mg, 5.02 mmol). Stirring was continued at rt for 30 minutes. The reaction mixture was again cooled to −20° C. and toluene-4-suofonyl chloride (pTs-Cl, 966 mg, 5.02 mmol) was added. The cooling bath was removed and stirring was continued for 2 h at rt and 30 minutes at 50° C. followed by the addition of potassium phthalimid (1.7 g, 9.2 mmol). Stirring at 50° C. was continued for 2 h. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was taken up in DCM (30 ml) filtered again and the filtrate was washed with water (30 ml). The phases were separated. The organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by preparative HPLC to give 80 mg (6%) of 2-[2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethyl]-isoindole-1,3-dione. LC-MS: tR=0.95 min; [M+H]+=346.31.

reactant | 2-(2-Benzyl-5-methyl-2H-pyrazol-3-yl)-ethanol | 3.92 mmol, 848 mg | C(C1=CC=CC=C1)N1N=C(C=C1CCO)C | C13H16N2O
reactant | sodium hydride | 5.02 mmol, 218 mg | [H-].[Na+]
reactant | potassium phthalimid | 9.2 mmol, 1.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 21 ml | CN(C)C=O | C3H7NO
product | 2-[2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethyl]-isoindole-1,3-dione | 80 mg, 6% | C(C1=CC=CC=C1)N1N=C(C=C1CCN1C(C2=CC=CC=C2C1=O)=O)C | C21H19N3O2
